US07799775B2
To 6 ml of 4N-hydrochloric acid-dioxane solution, 100 mg of 3-amino-7-tert-butoxycarbonyl-2-[3-(4-quinolin-2-ylpiperazin-1-yl)propylthio]-3,4,5,6,7,8-hexahydro-4-oxa-9-thia-1,3,7-triaza-9H-fluorene as synthesized in Example 1-13 was added and stirred for 2.5 hours. Distilling the solvent off under reduced pressure, 105 mg (100%) of 3-amino-2-[3-(4-quinolin-2-ylpiperazin-1-yl)propylthio]-3,4,5,6,7,8-hexahydro-4-oxa-9-thia-1,3,7-triaza-9H-fluorene trihydrochloride was obtained.

reactant | hydrochloric acid dioxane | Cl.O1CCOCC1
reactant | 3-amino-7-tert-butoxycarbonyl-2-[3-(4-quinolin-2-ylpiperazin-1-yl)propylthio]-3,4,5,6,7,8-hexahydro-4-oxa-9-thia-1,3,7-triaza-9H-fluorene | 100 mg | NN1C(=NC=2SC=3CN(CCC3C2O1)C(=O)OC(C)(C)C)SCCCN1CCN(CC1)C1=NC2=CC=CC=C2C=C1 | C29H37N7O3S2
product | 3-amino-2-[3-(4-quinolin-2-ylpiperazin-1-yl)propylthio]-3,4,5,6,7,8-hexahydro-4-oxa-9-thia-1,3,7-triaza-9H-fluorene trihydrochloride | 105 mg, 100% | Cl.Cl.Cl.NN1C(=NC=2SC=3CNCCC3C2O1)SCCCN1CCN(CC1)C1=NC2=CC=CC=C2C=C1 | InChI=1S/C24H29N7OS2.3ClH/c25-31-24(28-23-22(32-31)18-8-9-26-16-20(18)34-23)33-15-3-10-29-11-13-30(14-12-29)21-7-6-17-4-1-2-5-19(17)27-21;;;/h1-2,4-7,26H,3,8-16,25H2;3*1H
